US04199574
To a solution of 2-amino-9-(2-hydroxyethoxymethyl)adenine (0.22 g) in water (30 ml) was added a suspension of adenosine deaminase in aqueous ammonium sulfate (0.44 ml, containing 4.4 mg of the enzyme). The reaction mixture, which initially had a pH of 7.0, was heated at 37° C. for 18 hours, at which time the pH was 8.5 and TLC (silica gel plates developed in 15% methanol-85% chloroform) indicated a single product different from starting material. The reaction mixture was thoroughly chilled in an ice bath and the resulting white solid removed by filtration and thoroughly washed with cold water. The product was dried at 100° C./0.1 mm Hg for 16 hours to give 0.20 g of 9-(2-hydroxyethoxymethyl)guanine. 1/4 H2O, the structure of which was confirmed by m.p., TLC, U.V., NMR and mass spectroscopy analysis. Recrystallization from methanol gave the anhydrous 9-(2-hydroxyethoxymethyl)guanine.

reactant | 2-amino-9-(2-hydroxyethoxymethyl)adenine | 0.22 g | NC1=NC(=C2N=CN(C2=N1)COCCO)N | C8H12N6O2
reactant | adenosine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(N)=NC=NC12 | C10H13N5O4
solvent | water | 30 ml | O | H2O
solvent | ammonium sulfate | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
solvent | methanol | CO | CH4O
product | 9-(2-hydroxyethoxymethyl)guanine | 0.20 g | OCCOCN1C=2N=C(NC(C2N=C1)=O)N | C8H11N5O3
